US04940710
A 49.1 g portion of 6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester was reacted with 85 g of potassium carbonate, 266 g of ethyl iodide and 600 ml of dimethylformamide, giving 1-ethyl-1,4-dihydro-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid, ethyl ester.

reactant | 6,7,8-trifluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | FC=1C=C2C(C(=CNC2=C(C1F)F)C(=O)OCC)=O | C12H8F3NO3
reactant | potassium carbonate | 85 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 266 g | C(C)I | C2H5I
solvent | dimethylformamide | 600 ml | CN(C=O)C | C3H7NO
product | 1-ethyl-1,4-dihydro-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid, ethyl ester | C(C)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)OCC | C14H12F3NO3
